** sch_path: /foss/designs/SNN_IPN/sim_results/triangular_2x1/tb_2x1_triang.sch
**.subckt tb_2x1_triang
Xx1 net3 VDD j1 vlk GND ul_tun_final W_LEAK=1 CM=0.8p
Xx2 net2 VDD j2 vlk GND ul_tun_final W_LEAK=1 CM=0.8p
Xx3 net1 VDD k1 vlk GND ul_tun_final W_LEAK=1 CM=1p
xrstdp1 VDD vr GND j1 k1 net1 rstdp_mirror
xrstdp2 VDD vr GND j2 k1 net1 rstdp_mirror
x6 VDD hx net4 GND integrator
XM1 net4 k1 GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1
E1 vin GND VOL=' 0.800+0.254648*sin(2*3.1416*1*time/0.005)-0.127324*sin(2*3.1416*2*time/0.005)+0.084882*sin(2*3.1416*3*time/0.005)-0.063662*sin(2*3.1416*4*time/0.005)+0.051000*sin(2*3.1416*5*time/0.005)-0.042441*sin(2*3.1416*6*time/0.005)+0.036378*sin(2*3.1416*7*time/0.005)-0.031831*sin(2*3.1416*8*time/0.005)+0.028294*sin(2*3.1416*9*time/0.005)-0.025465*sin(2*3.1416*10*time/0.005) '
x7 VDD vr x hx GND opamp_mini
x8 VDD net5 GND vin x net6 sw
Vin1 net5 GND PWL(0 1.8 19.9m 1.8 20m 0)
Vin9 net6 GND 0.75
XM2 vlk vlk vss vss sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
I1 vdd vlk 10nA
G1 VDD net3 vin GND cur='max(0, 235.29e-9 * (V(vin) - 0.4))'
G2 VDD net2 vin GND cur='max(0, 235.29e-9 * (1.25 - V(vin)))'
Vin2 VDD GND 1.8
**** begin user architecture code

*MADE BY JORGE ALEJANDRO JUAREZ LORA IPN

.subckt rram_v0 TE BE
*N1 TE BE rram_v0_model gap_initial=unif(0.9,0.79)
N1 TE BE rram_v0_model
.ends rram_v0

.model rram_v0_model rram_v0_va


.control

pre_osdi /foss/designs/SNN_IPN/memristor_models/wellposed/rram_v0.osdi
.endc




.param mc_mm_switch=0
.param mc_pr_switch=0
.include /foss/pdks/sky130A/libs.tech/ngspice/corners/tt.spice
.include /foss/pdks/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical.spice
.include /foss/pdks/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical__lin.spice
*.include /foss/pdks/sky130A/libs.tech/ngspice/corners/tt/specialized_cells.spice


**** end user architecture code
**.ends

* expanding   symbol:  /foss/designs/SNN_IPN/Neuron/ultralif_final/ul_tun_final.sym # of pins=5
** sym_path: /foss/designs/SNN_IPN/Neuron/ultralif_final/ul_tun_final.sym
** sch_path: /foss/designs/SNN_IPN/Neuron/ultralif_final/ul_tun_final.sch
.subckt ul_tun_final Iext vdd vout Vleak vss  W_LEAK=1 CM=1p
*.iopin Iext
*.iopin vout
*.iopin vss
*.iopin Vleak
*.iopin vdd
XM1 vout vout vm vdd sky130_fd_pr__pfet_01v8 L=10 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
XM2 vout net1 vm vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58 nrd=0.193333333333333
+ nrs=0.193333333333333 sa=0 sb=0 sd=0 mult=1
XM3 net1 net1 vm vdd sky130_fd_pr__pfet_01v8 L=0.15 W=15 nf=1 ad=4.35 as=4.35 pd=30.58 ps=30.58 nrd=0.0193333333333333
+ nrs=0.0193333333333333 sa=0 sb=0 sd=0 mult=1
XM4 net1 vout vss vss sky130_fd_pr__nfet_01v8 L=5 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
C1 vm vss 1p
XM9 net2 vout Iext vdd sky130_fd_pr__pfet_01v8 L=0.15 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0
+ sd=0 mult=1
**** begin user architecture code


.save i(vext) v(vout) v(vm)


**** end user architecture code
XM11 vout Vleak vss vss sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM10 Iext vout_n net2 vss sky130_fd_pr__nfet_01v8 L=0.15 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
vext net2 vm 0
XM5 vout_n vout vss vss sky130_fd_pr__nfet_01v8 L=5 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1
XM6 vout_n vout vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0
+ mult=1
.ends


* expanding   symbol:  /foss/designs/SNN_IPN/Synapse/rstdp_mirror.sym # of pins=6
** sym_path: /foss/designs/SNN_IPN/Synapse/rstdp_mirror.sym
** sch_path: /foss/designs/SNN_IPN/Synapse/rstdp_mirror.sch
.subckt rstdp_mirror vdd R vss vout_pre vout_post I_post
*.iopin vdd
*.iopin vss
*.iopin R
*.iopin vout_post
*.iopin vout_pre
*.iopin I_post
XM3 vpre vout_post vss vss sky130_fd_pr__nfet_01v8 L=0.15 W=7.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM4 vpost vout_pre vss vss sky130_fd_pr__nfet_01v8 L=0.15 W=7.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XR2 te be rram_v0
XM5 vpre R be vss sky130_fd_pr__nfet_01v8 L=0.15 W=7.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM6 net1 R vpost vss sky130_fd_pr__nfet_01v8 L=0.15 W=7.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM7 vpre R net1 vdd sky130_fd_pr__pfet_01v8 L=0.15 W=15 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM8 be R vpost vdd sky130_fd_pr__pfet_01v8 L=0.15 W=15 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM15 A A vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=15 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
**** begin user architecture code


.save v(te) v(be) i(vmr)


**** end user architecture code
Vmr te net1 0
.save i(vmr)
XM9 n_vout_pre vout_pre vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM12 n_vout_pre vout_pre vss vss sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM13 n_vout_post vout_post net3 vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM14 n_vout_post vout_post vss vss sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM16 vpre n_vout_pre A vdd sky130_fd_pr__pfet_01v8 L=0.15 W=15 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM1 vpost n_vout_post A vdd sky130_fd_pr__pfet_01v8 L=0.15 W=15 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM2 net2 A vdd vdd sky130_fd_pr__pfet_01v8 L=5 W=0.75 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM17 I_post A net2 vdd sky130_fd_pr__pfet_01v8 L=5 W=0.75 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
.ends


* expanding   symbol:  /foss/designs/SNN_IPN/Neuron/ultralif/integrator.sym # of pins=4
** sym_path: /foss/designs/SNN_IPN/Neuron/ultralif/integrator.sym
** sch_path: /foss/designs/SNN_IPN/Neuron/ultralif/integrator.sch
.subckt integrator vdd Vout Ispks gnd
*.iopin Ispks
*.iopin Vout
*.iopin vdd
*.iopin gnd
XMIn Ispks vx vsyn vdd sky130_fd_pr__pfet_01v8 L=0.15 W=5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM3 vsyn vdd vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=50 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=3 m=3
XM4 Vout vsyn vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=25 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=2 m=2
XCsyn vdd vsyn sky130_fd_pr__cap_mim_m3_1 W=22.2 L=22.2 MF=1
XR2 vx vdd sky130_fd_pr__res_generic_po W=1 L=1
XR1 gnd vx sky130_fd_pr__res_generic_po W=1 L=1
XM6 Vout vx gnd gnd sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
.ends


* expanding   symbol:  /foss/designs/SNN_IPN/OPAMP/opamp_mini.sym # of pins=5
** sym_path: /foss/designs/SNN_IPN/OPAMP/opamp_mini.sym
** sch_path: /foss/designs/SNN_IPN/OPAMP/opamp_mini.sch
.subckt opamp_mini vdd vout vm vp gnd
*.iopin vdd
*.iopin gnd
*.iopin vout
*.iopin vm
*.iopin vp
XM1 vout vb2 vdd vdd sky130_fd_pr__pfet_01v8 L=0.8 W=4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM2 vb2 vb2 vdd vdd sky130_fd_pr__pfet_01v8 L=0.8 W=4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM3 vb2 vp net1 gnd sky130_fd_pr__nfet_01v8 L=0.3 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM4 vout vm net1 gnd sky130_fd_pr__nfet_01v8 L=0.3 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM5 net1 vb1 gnd gnd sky130_fd_pr__nfet_01v8 L=1.2 W=0.7 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
R1 vdd vb1 1k
R2 vb1 gnd 1k
.ends


* expanding   symbol:  /foss/designs/SNN_IPN/sw.sym # of pins=6
** sym_path: /foss/designs/SNN_IPN/sw.sym
** sch_path: /foss/designs/SNN_IPN/sw.sch
.subckt sw vdd b_in vss vin1 vout vin2
*.iopin vss
*.iopin vin1
*.iopin vout
*.iopin vdd
*.iopin vin2
*.iopin b_in
XM1 net1 b_in vss vss sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM2 net1 b_in vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM3 net2 net1 vss vss sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM4 net2 net1 vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM5 vout net1 vin1 vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM6 vout net1 vin2 vss sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM7 vin1 net2 vout vss sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
XM8 vin2 net2 vout vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1
.ends

.GLOBAL VDD
.GLOBAL GND
**** begin user architecture code



.options method gear
.options KLU
.options noinit
.options set num_threads=8
.options set ng_nomodcheck
.options set skywaterpdk
.options set wr_vecnames
.options set wr_singlescale
.options numdgt = 2
.save vin vr hx x ctrl
+J1 J2 K1

.tran 50n 30m uic
.control
	run
	write /home/alex/Desktop/EDA/SNN_IPN/sim_results/triangular_2x1/data.raw
.endc



**** end user architecture code
.end
